US08067621B2
Step 2: Trans-[4-(4-chloro-phenylsulfanyl)-5,8-difluoro-chroman-3-yl]-methanol
2-[(4-Chloro-phenylsulfanyl)-(2,3,6-trifluoro-phenyl)-methyl]-propane-1,3-diol (6.2 g, 14.8 mmole) was dissolved in 150 mL THF and NaH (60% in oil, 2 g) was added. The reaction was stirred at 60° C. for four hours. 300 mL of water and 400 mL of EtOAc were added. The organic layer washed with brine (100 mL), dried over Na2SO4 and concentrated. The product was purified by column chromatography (EtOAc/hexane from 0/100 to 50/50 in 45 minutes). Yield: 5.0 g, 85%. 1H NMR (CDCl3 400 MHz) δ 7.45 (d, J=8.1 Hz, 2H), 7.32 (d, J=8.1 Hz, 2H), 6.97 (m, 1H), 6.58 (m, 1H), 4.62 (dd, J=11.7 and 2.2 Hz, 1H), 4.50 (br, 1H), 4.43 (td, J=11.7 and 2.2 Hz, 1H), 3.67 (m, 1H), 3.48 (m, 1H), 2.25 (m, 1H), 1.50 (t, J=5.1 Hz, 1H).

reactant | 2-[(4-Chloro-phenylsulfanyl)-(2,3,6-trifluoro-phenyl)-methyl]-propane-1,3-diol | 14.8 mmole, 6.2 g | ClC1=CC=C(C=C1)SC(C(CO)CO)C1=C(C(=CC=C1F)F)F | C16H14ClF3O2S
reactant | NaH | 2 g | [H-].[Na+]
reactant | water | 300 mL | O | H2O
reactant | Ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | Trans-[4-(4-chloro-phenylsulfanyl)-5,8-difluoro-chroman-3-yl]-methanol | ClC1=CC=C(C=C1)S[C@H]1[C@@H](COC2=C(C=CC(=C12)F)F)CO | C16H13ClF2O2S
